Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Depression and suicidal thoughts"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
In brief, this is a ___ yo M ___ student with past hx of
depression and anxiety, sent by ___ for
worsening depression, anxiety and intrusive thoughts of SI.  He
states having intermittent episodes of depressed mood on and off
for years, since at least ___ yo, most recently worse over the
past 2 months.  Symptoms include feeling less motivation, 
without
change in appetite, increasing fatigue with increased desire to
sleep more, hopelessness, and generally feeling "overwhelmed". 
He has worsening "intrusive" suicidal thoughts with "no plan". 
He feels thoughts are "intrusive" as he cannot get rid of them
and can't shut them out of his head, are making him fall behind
in school, which makes him more anxious, and symptoms become
cyclic. This is in setting of frequent anxiety, with constant
anticipatory and ruminative worries about multiple things in his
life, especially school, and preoccupation about going over past
experiences.  He is also in more stress about future coming out
to his parents about his homosexuality. 
 
     Recently he notes having developed emergent feelings of
"hopelessness" and "inadequacy", decreased self-esteem, and
increasing ideas of "hypothetical situations of how to do it",
for example by "euthanizing" himself in a calm, peaceful way,
like when his dog died a few years ago, or by jumping off of a
tall building.  He states he had not gone through yet with this
because of his boyfriend, whom is a very supportive.  Though he
feels quite suicidal currently, he denies intent, states he does
not want to go through with it this evening (though sounded more
suicidal on Dr. ___ and his boyfriend ___ noted
to team that he often minimizes symptoms to providers).
   
     He also notes intermittent "obsessive thoughts", for 
example
a recurrent thought that he has to check many things, and
following through with actions, such as checking his room door,
the mailbox door, making sure the sink is completely off, at
least ___ times in a row multiple times each day.  When he does
not follow through with checking, he can't get the thoughts out
of his mind, he continues thinking about it, and he begins to
"spiral".  
     He denies AVH, paranoid or grandiose delusions.  He denies
symptoms of mania such as decreased need for sleep, racing
thoughts, increased energy, increased goal-directed or risky
behaviors.  He denies past trauma or flashbacks/nightmares.  
 
Past Medical History:
Past medical history:
-IBS
-Prior kidney stone in ___

Past psychiatric history: Reviewed and updated as needed from 
Dr.
___ ED consult note:
"Hospitalizations: none
Current treaters and treatment: ___ (therapist at
___), ___ (APRN, psychopharm)
Medication and ECT trials: Prozac (made him anxious), Celexa
(stopped working)
Self-injury: denies
Harm to others: denies
Access to weapons: denies"
 
Social History:
___
Family History:
Family psychiatric history:
-Paternal grandmother: OCD
-No family history of suicide or addiction.  
 
Physical Exam:
Physical Examination:
VS:  T 98.2, BP 117/76, P 88, O2 Sat 98% RA   
Gen: NAD, sitting comfortably.
HEENT: Pink hair on top, brunette hair on sides, PERRLA, EOMI,
MMM, no carotid bruits, no JVD
Ht: RRR, no MRG
Lungs: CTAB, symmetric chest wall motion, no increased work of
breathing
Abd: Soft, nontender, nondistended
Ext: No leg tenderness, edema or erythema bilaterally, 2+
bilateral ___ pulses
Neuro-
Cranial Nerves-CN II-XII intact.  
Motor:
Moving all extremities, ___ proximal and distal bilateral arm 
and
leg strength
2+ biceps and patellar reflexes bilaterally

Sensation: Normal light touch sensation of proximal and distal
extremities bilaterally
Coordination:
     Finger-nose-finger: intact
     Fine finger tapping: intact
     Heel to shin: intact
Gait/Romberg: Normal
Neurological:
    *station and gait: WNL  
    *tone and strength: Moving all extremities.
    cranial nerves: CN II-XII intact
    abnormal movements: No tremors, tics or dyskinesias, no
psychomotor agitation or retardation.
    frontal release: None 

  *Appearance: Patient is a college-aged man who appears stated
age, hygiene and grooming is good, with pinkish-purple hair on
top of head and brunette hair on sides.  
  Behavior: Patient able to have calm and cooperative
conversation with examiner.
  *Mood and Affect: "depressed, anxious"; very mildly 
constricted
with intermittent appropriate brightening, mood congruent, not
labile, appropriate.
  *Thought process: Linear, logical, goal-oriented.  No LOA.  
  *Thought Content: SI with intermittent intrusive thoughts that
he has difficulty getting out of his head of hypothetical ways 
he
could kill himself, like euthanizing himself or like jumping off
of a building, currently denying intent.  Denies HI. Denies AH 
or
VH.  Denies paranoia.  Intermittent obsessive thoughts about
needing to check things over again and compulsions to check ___
times in a row a multiple times each day.  
  *Judgment and Insight: Fair/limited-to-fair-He understands he
needs help, went in to counseling services for help, compliant
with treatment, is thinking about different ways to kill himself
with intrusive thoughts in his mind.
    Cognition:
    *Attention, *orientation, and executive function: A and Ox3,
attends to interview, digit span-can count back from 30 to 0
    *Memory: Not formally tested, STM and LTM grossly appear
intact.
    *Fund of knowledge: knows president, favorite work of
___.
*Speech: Regular rate, rhythm, tone, prosody and volume 
    *Language: Fluent ___
 
Pertinent Results:
___ 03:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:45PM   GLUCOSE-104* UREA N-14 CREAT-1.0 SODIUM-139 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-25 ANION GAP-16
___ 12:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:45PM   WBC-8.2 RBC-4.60 HGB-13.5* HCT-40.5 MCV-88 
MCH-29.3 MCHC-33.3 RDW-13.0 RDWSD-41.3
___ 12:45PM   NEUTS-75.0* ___ MONOS-4.0* EOS-0.7* 
BASOS-0.6 IM ___ AbsNeut-6.13* AbsLymp-1.60 AbsMono-0.33 
AbsEos-0.06 AbsBaso-0.___) Legal/Safety: On admission, Mr. ___ signed a ___ 
Voluntary form and was placed on 15 min checks (the lowest level 
of observation provided on this unit) and red sharps (the 
highest level of observation provided on this unit). He was 
later advanced to yellow sharps (an intermediate level of 
observation) given his consistent safety and denial of suicidal 
ideation and thoughts of self-harm.

2) Psychiatry: Major Depressive Disorder and unspecified Anxiety 
Disorder:
On admission Mr. ___ expressed recent worsening of depressive 
symptoms with increased anxiety. Prior to admission he 
experienced suicidal ideation as well as intrusive and obsessive 
thoughts or compulsions which suggested that he commit suicide. 
On admission he was continued on his home medications 
(Sertraline 150 mg PO daily, Bupropion SR 100 mg PO QAM, and 
Alprazolam 0.5 mg PO TID PRN anxiety).

On the first few days of admission, Mr. ___ noted that his 
mood was greatly improved. He attributed his improved mood to 
being removed from a stressful environment. He was future 
oriented and motivated to making changes to reduce stressors as 
well as reduce his social isolation. On ___ (two days prior 
to discharge) his home Alprazolam was discontinued and Lorazepam 
(0.5mg BID PRN anxiety) was started in its place. Mr. ___ 
agreed that this medicaiton change may assist in relieving his 
anxiety and self-reported "panic" symptoms. He responded well to 
this change though did note some difficulty falling asleep on 
the first few days of this change.

Mr. ___ was discharged on ___. Prior to discharge his 
intrusive thoughts of suicide had resolved and he consistently 
denied suicidal ideation and thoughts about self-harm. He was 
eager to return to his studies and was goal oriented. He was 
discharged with close outpatient follow-up with his ___ 
counseling center and was also arranged to have additional 
follow-up in the future with ___ (his eventual 
provider of choice).

Medical: 
#) IBS: Chronic, sometimes causing loose stools, stomach
discomfort, currently stable on dicyclomine.
-Continue dicyclomine 10 mg PO TID.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 150 mg PO DAILY 
2. BuPROPion (Sustained Release) 100 mg PO QAM 
3. DiCYCLOmine 10 mg PO TID 
4. ALPRAZolam 0.5 mg PO TID:PRN anxiety 

 
Discharge Medications:
1. Lorazepam 0.5 mg PO BID:PRN anxiety 
RX *lorazepam [Ativan] 0.5 mg 1 tablet by mouth twice a day Disp 
#*28 Tablet Refills:*0
2. BuPROPion (Sustained Release) 100 mg PO QAM 
3. DiCYCLOmine 10 mg PO TID 
4. Sertraline 150 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
Condition: Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive 

 
Discharge Instructions:
Discharge Instructions
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___